US06207662B1
2-[(2-Ethoxyphenoxy)-methyl]morpholine hydrochloride.
The title compound was prepared by hydrogenation of (±)-4-benzyl-2-[(2-ethoxyphenoxy)-methyl]morpholine over 5% Pd/C in ethanol: 1 M aqueous HCl 3:1. mp 176-179° C. Yield 96%.

reactant | (±)-4-benzyl-2-[(2-ethoxyphenoxy)-methyl]morpholine | C(C1=CC=CC=C1)N1CC(OCC1)COC1=C(C=CC=C1)OCC | C20H25NO3
reactant | HCl | 1 M | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 2-[(2-Ethoxyphenoxy)-methyl]morpholine hydrochloride | Yield 96% | Cl.C(C)OC1=C(OCC2CNCCO2)C=CC=C1 | InChI=1S/C13H19NO3.ClH/c1-2-15-12-5-3-4-6-13(12)17-10-11-9-14-7-8-16-11;/h3-6,11,14H,2,7-10H2,1H3;1H
